US06218128B1
2. 3-(4-methoxy-phenylsulfanyl)-3-methyl-butyroyl chloride
To a solution of 3-(4-methoxy-pbenylsulfanyl)-3methyl-butyric acid (20.0 g. 83.2 mmol) in 250 mL of benzene at room temperature was added a solution of oxalyl chloride (15.84 g. 124.8 mmol) in 10 mi of benzene over 30 minutes. After 4 h, the solution was washed with ice cold 5% aqueous NaOH (CAUTION: a large volume of gas is released during this procedure) followed by ice cold H2O, and finally saturated aqueous NaCl. The solution was dried (Na2SO4) and concentrated under reduced pressure to give a clear yellow oil. This material (3(4-methoxy-phenylsulfanyl)3-methyl-butyroyl chloride) was used without further purification in the next step. 1H NMR (300 MHz, CDCl3) δ: 7.45 (2H, d, J=8.8 Hz), 3.84 (3H, s), 3.12 (2H, s, 1.41 (6H, s).

reactant | 3-(4-methoxy-pbenylsulfanyl)-3methyl-butyric acid | 83.2 mmol, 20.0 g | COC1=CC=C(C=C1)SC(CC(=O)O)(C)C | C12H16O3S
reactant | oxalyl chloride | 124.8 mmol, 15.84 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
product | 3-(4-methoxy-phenylsulfanyl)-3-methyl-butyroyl chloride | COC1=CC=C(C=C1)SC(CC(=O)Cl)(C)C | C12H15ClO2S
